US09145393B2
A solution of tert-butyl 3-((6-methoxy-2′-(methylamino)-[3,4′-bipyridin]-5-yl)amino)azetidine-1-carboxylate (890 mg, 2.31 mmol) in 40% HBr (9 mL) was stirred at 50° C. for 14 h. After the mixture was cooled to RT, 9 mL of methanol was added, the residue filtered, washed with ethyl acetate (5 mL), and dried in vacuo to afford 5-(azetidin-3-ylamino)-2′-(methylamino)-[3,4′-bipyridin]-6(1H)-one di-hydrobromide (947 mg, 89%) as yellow solid: 1H NMR (400 MHz, DMSO-d6) δ 12.97 (s, 1H), 12.18 (d, J=5.9 Hz, 1H), 8.87 (s, 1H), 8.68 (s, 1H), 8.50 (s, 1H), 7.89 (d, J=6.8 Hz, 1H), 7.52 (dd, J=5.8, 2.6 Hz, 1H), 7.23 (s, 1H), 7.20 (dd, J=7.0, 1.8 Hz, 1H), 6.60 (s, 1H), 6.50 (d, J=2.5 Hz, 1H), 4.48 (d, J=8.9 Hz, 1H), 4.34 (m, 2H), 4.09-3.97 (m, 2H), 2.99 (d, J=4.8 Hz, 3H); MS (ES) m/z 272 (M+H).

reactant | tert-butyl 3-((6-methoxy-2′-(methylamino)-[3,4′-bipyridin]-5-yl)amino)azetidine-1-carboxylate | 2.31 mmol, 890 mg | COC1=C(C=C(C=N1)C1=CC(=NC=C1)NC)NC1CN(C1)C(=O)OC(C)(C)C | C20H27N5O3
reactant | methanol | 9 mL | CO | CH4O
reactant | HBr | 9 mL | Br | BrH
product | 5-(azetidin-3-ylamino)-2′-(methylamino)-[3,4′-bipyridin]-6(1H)-one di-hydrobromide | 947 mg, 89% | Br.Br.N1CC(C1)NC1=CC(=CNC1=O)C1=CC(=NC=C1)NC | InChI=1S/C14H17N5O.2BrH/c1-15-13-5-9(2-3-17-13)10-4-12(14(20)18-6-10)19-11-7-16-8-11;;/h2-6,11,16,19H,7-8H2,1H3,(H,15,17)(H,18,20);2*1H
